US07579449B2
[4-(5-bromo-2-fluoro-benzyl)-phenylethynyl]-triisopropyl-silane
A solution of 5.6 g (5-bromo-2-fluoro-phenyl)-{4-[(triisopropylsilyl)-ethynyl]-phenyl}-methanol and 4.1 ml triethylsilane in 50 ml dichloromethane is cooled in the ice bath. Then 4.7 ml trifluoroacetic acid are slowly added dropwise, and the solution is stirred for 4 h at ambient temperature. The solution is diluted with dichloromethane and washed with aqueous sodium hydrogen carbonate solution. After drying over sodium sulphate the solvent is removed and the residue is purified using silica gel (cyclohexane).

reactant | (5-bromo-2-fluoro-phenyl)-{4-[(triisopropylsilyl)-ethynyl]-phenyl}-methanol | 5.6 g | BrC=1C=CC(=C(C1)C(O)C1=CC=C(C=C1)C#C[Si](C(C)C)(C(C)C)C(C)C)F | C24H30BrFOSi
reactant | triethylsilane | 4.1 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 4.7 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | [4-(5-bromo-2-fluoro-benzyl)-phenylethynyl]-triisopropyl-silane | BrC=1C=CC(=C(CC2=CC=C(C=C2)C#C[Si](C(C)C)(C(C)C)C(C)C)C1)F | C24H30BrFSi
